US07897767B2
Benzoic anhydride (3.1 g, 13.8 mmol) was added to a flask containing 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butan-1-amine hydrochloride (prepared as described in Part A of Example 88, 4.30 g, 12.5 mmol), triethylamine (3.70 mL, 26.3 mmol), and dichloromethane (100 mL) at 0° C. The reaction mixture was stirred at room temperature for 1 day and additional triethylamine (0.5 mL) and benzoic anhydride (0.8 g) were added. The reaction mixture was stirred for 6 hours at room temperature. The volatiles were removed under reduced pressure and water (50 mL) followed by ethyl acetate (50 mL) were added to the solid residue. The mixture was sonicated for 1 minute, then the solid was isolated by filtration, washed with water and ethyl acetate, and dried under vacuum to afford 4.7 g of N-{4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide.

reactant | Benzoic anhydride | 13.8 mmol, 3.1 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butan-1-amine hydrochloride | Cl.ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCN
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | benzoic anhydride | 0.8 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 26.3 mmol, 3.70 mL | C(C)N(CC)CC | C6H15N
product | N-{4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide | 4.7 g | ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(C1=CC=CC=C1)=O | C20H22ClN7O
